US07282468B2
Lithium hydroxide monohydrate (0.839 g, 0.02 mmol), boric acid (1.236 g, 0.02 mmol), and 2 equivalents of 3,4-dihydroxybenzonitrile (5.4 g, 0.04 mmol) were mixed in 4 ml water. The mixture was heated to near boiling for few minutes till a clear pink colored solution was obtained. Upon cooling to room temperature a white solid was formed. The supernatant solution was decanted and the solid was recrystallized from small quantity of hot water. After drying in an oven, lithium bis(3,4-dihydroxybenzonitrile) borate was isolated as a white powder. Yield=5.3 g (93%), mp>300° C.

reactant | Lithium hydroxide monohydrate | 0.02 mmol, 0.839 g | O.[OH-].[Li+]
reactant | boric acid | 0.02 mmol, 1.236 g | B(O)(O)O | BH3O3
reactant | 3,4-dihydroxybenzonitrile | 0.04 mmol, 5.4 g, 2 equivalents | OC=1C=C(C#N)C=CC1O | C7H5NO2
solvent | water | 4 ml | O | H2O
product | lithium bis(3,4-dihydroxybenzonitrile) borate | B([O-])([O-])[O-].OC=1C=C(C#N)C=CC1O.OC=1C=C(C#N)C=CC1O.[Li+].[Li+].[Li+] | InChI=1S/2C7H5NO2.BO3.3Li/c2*8-4-5-1-2-6(9)7(10)3-5;2-1(3)4;;;/h2*1-3,9-10H;;;;/q;;-3;3*+1
